Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Motrin / Zantac / Penicillins
 
Attending: ___.
 
Chief Complaint:
hyperglycemia/polyuria
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ y/o female with PMHx of DM2 presenting with hyperglycemia.  
Patient notes about 1 week of polydipsia and polyuria, family 
checked her FSBS which was in the 400s for them over past 
several days. Patient also reports nausea and SOB with cough, 
non-productive. She was diagnosed with bronchitis a few weeks 
ago, treatment included steroids which she completed over 1 week 
ago.  
She reports taking all her medications except Januvia, which she 
hasn't been able to fill for past few days due to insurance 
issue. Denies missing any doses of metformin or glipizide. 
Denies any fevers/chills, chest pain, abd pain, vomiting, 
dysuria, rash.  
Initial vital signs in the ED were 97.7 92 148/84 16 99% on room 
air. Her first FSBG was 439. Labs with WBC 7.8 Hbg/Hct 12.8/37.8 
Plt 96. Chemistry with Na 135 K 4.7 Cl 94 HCO3 24 BUN 41 Cr 1.3. 
Lactate was 5.4. Urinalysis was negative and no ketones. VBG 
with pH of 7.4, pCO2 of 34. Flu swab was negative. CXR was 
normal.  
She was given 10 units of regular insulin, 2L of IVFs. Repeat 
FSBG still in the 400s, repeat lactate was 4.3. She was given 
another 14units of SQ insulin, and admitted to medicine for 
further treatment.  
Vital signs on transfer were: 97.9 66 144/72 18 98% RA  
Upon arrival to the floor, she reports dry cough, mild dyspnea. 
No chest pain or palpitations. Mild nausea but no vomiting or 
diarrhea  
Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, chest pain, abdominal pain, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  
 
Past Medical History:
PMH: Chronic Back Pain, Asthma, DM, Hyperlipidemia, HTN, 
migraine, elevated BMI, OA, rosacea, OSA, Followed by 
Psychiatry, diverticulosis

PSH: History of 11 prior abdominal procedures including ovarian 
procedure, bowel perforation, Hysterectomy, Ovaryiectomy 
w/single remaining ovary
 
Social History:
___
Family History:
Family history is notable for cardiac disease of her sisters. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals 98.3 134/80 p76 r18 95%RA  
GENERAL: Alert and oriented. NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: Bilateral wheezes with appreciable air entry  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM
PHYSICAL EXAM:  
Vitals 97.9 161/72 68 18 97 on RA 
GENERAL: Alert and oriented. NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: minimal Bilateral wheezes with appreciable air entry  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
ADMISSION LABS
==================
___ 06:10PM   PLT COUNT-96*
___ 06:10PM   NEUTS-76.6* LYMPHS-17.2* MONOS-5.4 EOS-0.8 
BASOS-0.1
___ 06:10PM   WBC-7.8# RBC-4.50 HGB-12.8 HCT-37.8 MCV-84 
MCH-28.4 MCHC-33.7 RDW-16.8*
___ 06:10PM   GLUCOSE-499*
___ 06:10PM   ALBUMIN-4.4
___ 06:10PM   LIPASE-45
___ 06:10PM   ALT(SGPT)-59* AST(SGOT)-37 ALK PHOS-160* TOT 
BILI-0.4
___ 06:10PM   estGFR-Using this
___ 06:10PM   GLUCOSE-522* UREA N-41* CREAT-1.3* SODIUM-135 
POTASSIUM-4.7 CHLORIDE-94* TOTAL CO2-24 ANION GAP-22
___ 07:21PM URINE  RBC-1 WBC-4 BACTERIA-FEW YEAST-NONE 
EPI-5
___ 07:21PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-1000 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 07:21PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:21PM URINE  GR HOLD-HOLD
___ 07:21PM URINE  UHOLD-HOLD
___ 07:21PM URINE  HOURS-RANDOM
___ 07:21PM URINE  HOURS-RANDOM
___ 07:52PM   LACTATE-5.4*
___ 07:52PM   ___ PO2-60* PCO2-34* PH-7.40 TOTAL 
CO2-22 BASE XS--2
___ 08:30PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 11:15PM   GLUCOSE-436* UREA N-33* CREAT-1.0 SODIUM-136 
POTASSIUM-5.1 CHLORIDE-101 TOTAL CO2-21* ANION GAP-19
___ 11:42PM   LACTATE-4.3*
___ 05:59AM   PLT COUNT-91*
___ 05:59AM   WBC-5.6 RBC-4.06* HGB-11.1* HCT-33.6* MCV-83 
MCH-27.4 MCHC-33.1 RDW-16.7*
___ 05:59AM   ALBUMIN-3.9 CALCIUM-8.5 PHOSPHATE-2.6* 
MAGNESIUM-2.0
___ 05:59AM   ALT(SGPT)-44* AST(SGOT)-33 LD(LDH)-135 ALK 
PHOS-137* TOT BILI-0.3
___ 05:59AM   GLUCOSE-209* UREA N-27* CREAT-1.0 SODIUM-137 
POTASSIUM-4.9 CHLORIDE-101 TOTAL CO2-24 ANION GAP-17
___ 09:24AM   LACTATE-2.4*
___ 01:46PM   LACTATE-3.8*
___ 06:49PM   CALCIUM-7.9* PHOSPHATE-2.4* MAGNESIUM-1.7
___ 06:49PM   GLUCOSE-311* UREA N-23* CREAT-0.9 SODIUM-136 
POTASSIUM-4.7 CHLORIDE-102 TOTAL CO2-22 ANION GAP-17
___ 07:38PM   LACTATE-3.0*

STUDIES
=============
Cardiovascular ReportECGStudy Date of ___  6:53:46 ___
 
Sinus rhythm. Left ventricular hypertrophy. Non-specific septal 
ST-T wave
changes. Compared to the previous tracing of ___ no 
diagnostic change.
 
Read ___.
 IntervalsAxes
___
___

___ CXR
IMPRESSION: 
No acute cardiopulmonary abnormality.

DISCHARGE LABS
======================
___ 07:45AM BLOOD WBC-5.3 RBC-3.98* Hgb-10.9* Hct-33.4* 
MCV-84 MCH-27.5 MCHC-32.8 RDW-16.9* Plt Ct-84*
___ 07:45AM BLOOD Plt Ct-84*
___ 07:45AM BLOOD Glucose-123* UreaN-16 Creat-0.8 Na-139 
K-4.3 Cl-105 HCO3-26 AnGap-12
___ 05:59AM BLOOD ALT-44* AST-33 LD(LDH)-135 AlkPhos-137* 
TotBili-0.3
___ 07:45AM BLOOD Calcium-9.0 Phos-3.0 Mg-2.2
___ 08:01AM BLOOD Lactate-1.8
 
Brief Hospital Course:
Ms. ___ is a ___ woman with Type 2 DM, asthma and recent 
bronchitis episode who p/w with polydypsia, polyuria, 
hyperglycemia and elevated lactate. Patient was found to have 
FSBG greater than 400 on admission. Elevated BS most likely 
triggered by recent corticosteroid use and also not having her 
Januvia for some days concurrently. Patient started on insulin 
and given many liters of IV fluid resuscitation. Patient Lactate 
downtrended to within normal values with aggressive fluid 
administration. Patient was seen by ___ who assisted with 
titrating insulin. Patient had difficulty with drawing up 
insulin and grandson (whom lives with patient) will help 
administer insulin at home. Patient will follow up with PCP and 
___ contact patient after discharge for a follow up. 

ACUTE ISSUES
=====================
# Hyperglycemia/Diabetes Mellitus Type II, uncontrolled: 
Elevated BS most likely triggered by recent corticosteroid use 
and also not having her Januvia for some days concurrently. NO 
s/sxs of acute infection; chest xray clear and urine with few 
bacteria but 5epithelial cells. No GI symptoms. BG down to 332 
on the floor. No e/o DKA. Patient Lactate downtrending after 
IVF. Patient seen by ___ while in the hospital and started on 
long and prandial insulin while in the hospital. The patient was 
discontinued on metformin/januvia due to elevated lactate. The 
patient will return home on glipizide and insulin. The patient 
and the patient's grandson were trained at administering insulin 
while in the hospital by the ___ educator and the nursing 
team. The patient will follow up with ___ and PCP.   See 
medication list for discharge dose of insulin. 

# Elevated lactate: Likely due to osmotic diuresis in setting of 
significant hyperglycemia. resolving with IVF on ___. Lactate 
trending down, but still abnormal on ___. Lactate normalized on 
___ after multiple units of isotonic fluid. We held metformin 
and januvia in setting of elevated lactate. Patient was 
responsive to fluid and will need close follow up with PCP after 
discharge. Lactate normal on discharge. 

# HTN: Patient was started on Lisinopril for her high blood 
pressure given her diabetes. Patient will follow up with her 
PCP. Held Lasix due to polyuria from hyperglycemia. Will see PCP 
prior to restarting. 

CHRONIC ISSUES
=====================

# Asthma: Stable on admission. Avoided all steroid medications. 
Continued patient on all home inhalers and nebulizers. 

# HLD: Continued statin. 

# Anxiety/Depression: Continued on home medications. 

TRANSITIONAL ISSUES
=====================
- patient started on Insulin (lantus and humalog with sliding 
scale) (see below for dosages)
- patient and grandson provided ___ with ___ and 
nursing
- patient started on Lisinopril 5mg PO daily, please check 
electrolytes as below
- stopped Lasix due to polyuria; should follow up with PCP prior 
to restarting
- stopped Metformin and Januvia due to elevated Lactate and poor 
glucose control while inpatient. 
- patient will need Chem 10 (Chem 7 plus Ca, Mag and Phos) drawn 
on ___ and faxed to Dr. ___ (FAX: 
___
- patient should also have repeat UA in her PCP to check for 
glucosiuria at first appointment. 
- patient will need follow up with ___ after discharge. If 
she has not heard by her apt on ___, she should call the 
___ for help with obtaining an appointment
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
2. albuterol sulfate 90 mcg/actuation inhalation q6h prn 
shortness of breath 
3. Cyanocobalamin Dose is Unknown  PO DAILY 
4. Fluoxetine 40 mg PO DAILY 
5. Flovent HFA (fluticasone) 220 mcg/actuation inhalation Q 6H 
prn shortness of breath 
6. Furosemide 20 mg PO DAILY 
7. Gabapentin 400 mg PO TID 
8. GlipiZIDE XL 10 mg PO BID 
9. Hyoscyamine SO4 (Time Release) 0.125 mg PO QID 
10. Combivent Respimat (ipratropium-albuterol) ___ 
mcg/actuation inhalation QID PRN Shortness of breath 
11. MetFORMIN (Glucophage) 1000 mg PO BID 
12. metroNIDAZOLE 0.75 % topical BID 
13. Montelukast 10 mg PO DAILY 
14. Mupirocin Ointment 2% 1 Appl TP BID 
15. Nystatin Oral Suspension 5 mL PO QID 
16. Omeprazole 20 mg PO BID 
17. QUEtiapine Fumarate 200 mg PO QHS 
18. Simvastatin 40 mg PO QPM 
19. sitaGLIPtin 100 mg oral DAILY 
20. Acetaminophen 1000 mg PO Q8H:PRN PAIN 
21. Cetirizine 10 mg PO DAILY 
22. Docusate Sodium 100 mg PO DAILY:PRN CONSTIPATION 
23. Ferrous Sulfate 325 mg PO BID 
24. ClonazePAM 1 mg PO BID 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN PAIN 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
3. ClonazePAM 1 mg PO BID 
4. Docusate Sodium 100 mg PO DAILY:PRN CONSTIPATION 
5. Ferrous Sulfate 325 mg PO BID 
6. Fluoxetine 40 mg PO DAILY 
7. Gabapentin 400 mg PO TID 
8. GlipiZIDE XL 10 mg PO BID 
9. Montelukast 10 mg PO DAILY 
10. Omeprazole 20 mg PO BID 
11. QUEtiapine Fumarate 200 mg PO QHS 
12. Simvastatin 40 mg PO QPM 
13. albuterol sulfate 90 mcg/actuation INHALATION Q6H PRN 
shortness of breath 
14. Cetirizine 10 mg PO DAILY 
15. Combivent Respimat (ipratropium-albuterol) ___ 
mcg/actuation inhalation QID PRN Shortness of breath 
16. Cyanocobalamin 250 mcg PO DAILY 
17. Flovent HFA (fluticasone) 220 mcg/actuation inhalation Q 6H 
prn shortness of breath 
18. Hyoscyamine SO4 (Time Release) 0.125 mg PO QID 
19. metroNIDAZOLE 0.75 % topical BID 
20. Mupirocin Ointment 2% 1 Appl TP BID 
21. Nystatin Oral Suspension 5 mL PO QID 
22. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
23. Glargine 15 Units Breakfast
Humalog 10 Units Breakfast
Humalog 14 Units Lunch
Humalog 14 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
RX *insulin glargine [Lantus Solostar] 100 unit/mL (3 mL) ___ Units before BKFT; 14 Units at night Disp #*1 
Syringe Refills:*5
RX *insulin lispro [Humalog KwikPen] 100 unit/mL 1 injection sq 
Up to 14 Units QID per sliding scale 14 Units before LNCH; Units 
QID per sliding scale 14 Units before DINR; Disp #*1 Syringe 
Refills:*5
RX *lancets ___ FastClix]  1 fingerstick four times a day 
Disp #*100 Each Refills:*3
RX *insulin syringe-needle U-100 [Advocate Syringes] 30 gauge x 
___ 1 syringe QID for insulin administration Disp #*100 
Syringe Refills:*5
24. Outpatient Lab Work
Please draw a Chem 10 on ___ and forward to ___. 
MD ___ ___. ICD 9 250.0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: Insulin Dependent Diabetes Melitus; Elevated Lactate; 
Dehydration ___ Polydipsia
SECONDARY: HLD, HTN, Migraines, Osteoarthritis, Sleep Apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure to take part in your care during your stay 
here at ___. You came into the hospital after noticing 
multiple finger stick blood sugars greater than 400 at home. You 
were also noting increased urination at home during these 
episodes of high blood sugar. You were brought to the medical 
floor for rehydration and for tighter control of your blood 
sugars. You were seen by the ___ team and started on Insulin 
for better control. You were discharged on insulin and glipizide 
and will follow up with your PCP and with the ___ team. 

Thank you for allowing us to participate in your care during 
your stay in the hospital. 

Sincerely, 

Your ___ Team
 
Followup Instructions:
___